US04002611
Preparation of 1-methyl-5-phenyl-7-chloro-1,2,4,5-tetrahydro-3H-1,4-benzodiazepine:
To a suspension of 400 mg. of lithium aluminum hydride in 10 ml. of tetrahydrofuran is added a solution of 600 mg. of 1-formyl-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine in 40 ml. of tetrahydrofuran at a room temperature. After the reaction mixture is stirred for one hour at 55° C., water is added thereto carefully. The addition of water is stopped when an aluminum compound begin to precipitate on the bottom of the flask, and the precipitate is removed by filtration. The filtrate is concentrated under a reduced pressure to a solidal substance. The solidal substance is recrystallized from a solvent mixture of benzene and n-hexane to give 400 mg. of 1-methyl-5-phenyl-7-chloro-1,2,4,5-tetrahydro-1H-benzodiazepine, melting point 128°-129° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-formyl-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine | C(=O)N1CCN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2 | C16H13ClN2O
reactant | aluminum | [Al] | Al
solvent | water | O | H2O
product | 1-methyl-5-phenyl-7-chloro-1,2,4,5-tetrahydro-3H-1,4-benzodiazepine | CN1CCNC(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2 | C16H17ClN2
